US06538152B1
To a stirred solution of ethyl 2-(5-chloro-2-methoxy-phenoxy)acetate (606 mg) in trifluoroacetic acid (12 ml) was added hexamethylenetetramine (382 mg) at room temperature, and the mixture was stirred for 9 hours at 60° C. After concentration of the reaction mixture under reduced pressure, a saturated aqueous sodium bicarbonate solution was added to the residue, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, purification of the residue by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=6/1) gave ethyl 2-(5-chloro-4-formyl-2-methoxyphenoxy)acetate (354 mg).

reactant | ethyl 2-(5-chloro-2-methoxy-phenoxy)acetate | 606 mg | ClC=1C=CC(=C(OCC(=O)OCC)C1)OC | C11H13ClO4
reactant | hexamethylenetetramine | 382 mg | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | 12 ml | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 2-(5-chloro-4-formyl-2-methoxyphenoxy)acetate | 354 mg | ClC=1C(=CC(=C(OCC(=O)OCC)C1)OC)C=O | C12H13ClO5
